US07138400B2
Step 2 1-(4-Fluoro-tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-ylidene)-pyrrolidinium bromide
A solution of 1,2-bis-bromomethyl-3-fluoro-benzene (4.4 g, 15.6 mmol) in MeCN (10 ml) was added to stirred solution of 1-cyclopent-1-enyl-pyrrolidine (2.3 ml, 15.6 mmol) and DIPEA (5.4 ml, 31.2 mmol) in MeCN (20 ml). The mixture was stirred at room temperature for 18 hours and then filtered. Washing with cold MeCN afforded an off-white solid 1.02 g (19%). m/z 258 (M+).

reactant | 1,2-bis-bromomethyl-3-fluoro-benzene | 15.6 mmol, 4.4 g | BrCC1=C(C(=CC=C1)F)CBr | C8H7Br2F
reactant | 1-cyclopent-1-enyl-pyrrolidine | 15.6 mmol, 2.3 ml | C1(=CCCC1)N1CCCC1 | C9H15N
reactant | DIPEA | 31.2 mmol, 5.4 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 10 ml | CC#N | C2H3N
solvent | MeCN | 20 ml | CC#N | C2H3N
product | 1-(4-Fluoro-tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-ylidene)-pyrrolidinium bromide | 1.02 g, 19% | [Br-].FC=1C=2CC3CCC(CC2C=CC1)C3=[N+]3CCCC3 | InChI=1S/C17H21FN.BrH/c18-16-5-3-4-12-10-13-6-7-14(11-15(12)16)17(13)19-8-1-2-9-19;/h3-5,13-14H,1-2,6-11H2;1H/q+1;/p-1
